US04973592
To a solution of 1-cyclohexylcyclohexane-1-carbonyl chloride (2.1 g) in acetonitrile (30 ml), 5-hydroxy-2-nitroiminohexahydropirimidine (1.28 g) was added portionwise. The mixture was stirred at room temperature overnight, then DMF (10 ml) was added and the mixture was heated to 50° C. for 24 hours. The reaction was quenched with water. The precipitate was collected, dried and triturated with diethyl ether to afford 0.93 g of 2-nitroiminohexahydropyrimidin-5-yl 1-cyclohexylcyclohexane-1-carboxylate.

reactant | 1-cyclohexylcyclohexane-1-carbonyl chloride | 2.1 g | C1(CCCCC1)C1(CCCCC1)C(=O)Cl | C13H21ClO
reactant | 5-hydroxy-2-nitroiminohexahydropirimidine | 1.28 g | OC1CNC(NC1)=N[N+](=O)[O-] | C4H8N4O3
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-nitroiminohexahydropyrimidin-5-yl 1-cyclohexylcyclohexane-1-carboxylate | 0.93 g | C1(CCCCC1)C1(CCCCC1)C(=O)OC1CNC(NC1)=N[N+](=O)[O-] | C17H28N4O4
